US04000143
Reduction of 2'-[2-(1-methyl-2-piperidyl)ethyl]-4-nitrobenzanilide (6.5 g., 0.018 mole) in 100 ml. of ethanol employing 2 g. of palladium on carbon catalyst (10%) according to Example 2 (a) affords 4-amino-2'-[2-(1-methyl-2-piperidyl)-ethyl]benzanilide. Crystallization of the product from acetonitrile provides the analytically pure substance, m.p. 147°-148.5° C. (corr.).

reactant | 2'-[2-(1-methyl-2-piperidyl)ethyl]-4-nitrobenzanilide | 0.018 mole, 6.5 g | CN1C(CCCC1)CCC1=C(NC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=CC=C1 | C21H25N3O3
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 2 g | C(C)O | C2H6O
product | 4-amino-2'-[2-(1-methyl-2-piperidyl)-ethyl]benzanilide | NC1=CC=C(C(=O)NC2=C(C=CC=C2)CCC2N(CCCC2)C)C=C1 | C21H27N3O
